Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
exam under anesthesia, vulvar biopsy

 
History of Present Illness:
___ yo F w/ PMHx of hypothroidism and new diagnosis of vulvar 
mass was transferred from ___ with abdominal pain. Has had 
abdominal pain x 2 months and was referred for transvaginal 
ultrasound. The transvaginal ultrasound was abnormal so she was 
referred for CT ab/p which revealed irregular vaginal mass and 
pelvic lympadenopathy. She was given IV flagyl and levaquin and 
transferred to ___ for further management. At ___, labs were 
noteable for leukocytosis to 17.3 with 2.4% bands. 
 
In the ED, initial vitals: 98.4 119 100/61 18 98%RA  
Exam/labs were notable for: WBC 15.5, H&H 11.4/35.6, plts 439.  
OSH imaging reviewed by ob/gyn did not reveal any evidence of 
free air and no concern for deep tissue infection or fascitis.
She triggered twice for hypotension and tachycardia. HRs to 
130s, SBPs in the ___. 
Patient was given: vancomycin, zosyn, and 3L NS resuscitation  
 
On transfer, vitals were: 97.9 89 96/59 18 100% RA.
  
On arrival to the MICU, the pt is ___ speaking and in 
NAD. 
 
 
Past Medical History:
PMHx: GERD, arthritis, hypothyroidism
PSHx: has midline incision from unknown surgery ? tubal 
ligation,
shoulder surgery 

 
Social History:
___
Family History:
unknown
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
97.9 89 96/59 18 100% RA.
triggered several times for HR as high as 130s and BP as low as
___ in the ED
NAD, thin and cachectic appearing woman
RRR, CTAB
abd soft, ND, no R/G, well-healing infraumbilical midline
incision, very ttp in RLQ where there is a 5-6cm area nodular, 
firm and tender nodes in R inguinal region with surrounding 
erythema spreading to mons
3cm right vulvar mass, very TTP
scant vaginal bleeding on pad
unable to tolerate even 1 finger vaginal exam (per gyn note)
extremities extremely thin but wwp, no edema
foley with clear urine

On day of discharge:
Afebrile, vitals stable, HR 80's BP 120s/80s
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, nondistended, no rebound/guarding, TTP over R 
inguinal region where there is a 5cm firm, mildly fluctuant, 
tender node with overlying blister. Erythema receding. Has right 
vulvar mass. Well-healing infraumbilical midline
incision. 
___: nontender, nonedematous

 
Pertinent Results:
___ CT Ab/P (OSH read) 
1. large irregular vaginal mass presumably a primary carcinoma 
with metastatic adenopathy in the right inguinal region and 
adjacent/anterior to the right femoral vessels.
2. unremarkable upper abdomen. no retroperitoneal or upper 
abdoiminal metastatic disease. 
3. prbable atelectasis right lower lobe, can't exclude pna
4. severe wedge compression fracture of t12 probably chronic but 
is new since ___

___ CXR: 
mild right base subsegmental atelectasis

IMAGING DATA: 
___ pelvis US 
Sonographic aspiration was not attempted secondary to exquisite
patient pain with only slight palpation of the area of concern
and only a questionable amount of trace fluid surrounding a
largely solid mass concerning for malignancy

___ CT abdomen
Vulvar mass with enhancing and necrotic lymph nodes with largest 

conglomeration of lymph nodes within the right inguinal region.
The skin and soft tissues over this region demonstrate 
thickening
and inflammation. Super infection of the nodal mass is not
excluded. Appropriate action should be taken. 

___ CTA:  
1.  No pulmonary embolus detected to the subsegmental levels. 
2.  Moderate bilateral pleural effusions with adjacent
compressive 
atelectasis. 

___ 
   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative

___ blood cultures no growth to date
___ Vulva, biopsy:
Invasive squamous cell carcinoma, well to moderately 
differentiated
  
Labs:
TSH 7; needs outpatient dose adjustment of home meds

___ 05:27AM BLOOD WBC-10.3 RBC-3.44* Hgb-9.5* Hct-31.7* 
MCV-92 MCH-27.7 MCHC-30.0* RDW-14.3 Plt ___
___ 05:55AM BLOOD WBC-10.2 RBC-3.51* Hgb-9.8* Hct-32.1* 
MCV-92 MCH-27.9 MCHC-30.5* RDW-14.4 Plt ___
___ 07:15AM BLOOD WBC-14.5* RBC-3.94* Hgb-11.2* Hct-35.6* 
MCV-91 MCH-28.5 MCHC-31.5 RDW-13.9 Plt ___
___ 03:30PM BLOOD WBC-19.4* RBC-3.74* Hgb-10.9* Hct-33.8* 
MCV-90 MCH-29.0 MCHC-32.1 RDW-13.8 Plt ___
___ 01:30AM BLOOD WBC-20.4* RBC-3.66* Hgb-10.7* Hct-33.3* 
MCV-91 MCH-29.2 MCHC-32.1 RDW-13.9 Plt ___
___ 06:00AM BLOOD WBC-15.1* RBC-3.56* Hgb-10.0* Hct-33.1* 
MCV-93 MCH-28.0 MCHC-30.1* RDW-13.6 Plt ___
___ 03:30PM BLOOD WBC-14.2* RBC-3.56* Hgb-10.1* Hct-32.9* 
MCV-93 MCH-28.4 MCHC-30.6* RDW-13.4 Plt ___
___ 05:00AM BLOOD WBC-13.9* RBC-3.12* Hgb-9.0* Hct-28.6* 
MCV-92 MCH-28.9 MCHC-31.4 RDW-13.3 Plt ___
___ 08:35PM BLOOD WBC-15.5* RBC-4.00* Hgb-11.4* Hct-35.6* 
MCV-89 MCH-28.4 MCHC-31.9 RDW-13.0 Plt ___
___ 05:00AM BLOOD ___ PTT-38.2* ___

___ 05:27AM BLOOD Glucose-84 UreaN-6 Creat-0.6 Na-137 K-4.4 
Cl-102 HCO3-28 AnGap-11
___ 05:55AM BLOOD Glucose-83 UreaN-5* Creat-0.6 Na-135 
K-4.5 Cl-99 HCO3-28 AnGap-13
___ 07:15AM BLOOD Glucose-106* UreaN-6 Creat-0.6 Na-134 
K-4.4 Cl-96 HCO3-29 AnGap-13
___ 03:30PM BLOOD Glucose-91 UreaN-4* Creat-0.6 Na-133 
K-4.5 Cl-95* HCO3-28 AnGap-15
___ 03:05AM BLOOD Glucose-101* UreaN-5* Creat-0.5 Na-135 
K-4.5 Cl-101 HCO3-25 AnGap-14
___ 06:00AM BLOOD Glucose-87 UreaN-7 Creat-0.6 Na-136 
K-5.2* Cl-107 HCO3-20* AnGap-14
___ 03:30PM BLOOD Glucose-128* UreaN-8 Creat-0.6 Na-138 
K-3.5 Cl-109* HCO3-20* AnGap-13
___ 05:00AM BLOOD UreaN-7 Creat-0.4 Na-134 K-3.7 Cl-107 
HCO3-20* AnGap-11
___ 08:35PM BLOOD Glucose-95 UreaN-12 Creat-0.7 Na-128* 
K-4.4 Cl-92* HCO3-27 AnGap-13

___ 05:55AM BLOOD ALT-26 AST-38
___ 05:00AM BLOOD ALT-58* AST-98* AlkPhos-125* TotBili-0.___

/___ 05:27AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.9
___ 05:55AM BLOOD Calcium-8.2* Phos-4.1 Mg-1.9
___ 07:15AM BLOOD Calcium-8.9 Phos-5.4* Mg-1.9
___ 03:30PM BLOOD Calcium-8.9 Phos-4.4 Mg-2.2
___ 03:05AM BLOOD Calcium-8.5 Phos-3.7 Mg-1.6
___ 06:00AM BLOOD Calcium-8.0* Phos-3.2 Mg-2.4
___ 03:30PM BLOOD Calcium-7.2* Phos-2.2* Mg-1.7

___ 05:00AM BLOOD Albumin-2.4* Calcium-6.7* Phos-2.4* 
Mg-1.7
___ 01:30AM BLOOD D-Dimer-1723*
___ 05:00AM BLOOD TSH-7.4*

___ 07:00PM BLOOD Vanco-21.7*

___ 03:26PM BLOOD Lactate-1.4
___ 08:47PM BLOOD Lactate-1.0
 
Brief Hospital Course:
MICU COURSE: Ms. ___ is an ___ yo F w/ vulvar mass and inguinal 
lymphadenopathy, who presented to ___ with abdominal pain, found 
to be hypotensive and tachycardic and transferred to ___ for 
further management. Her hypotension and tachycardic were 
attributed to likely septic shock given the erythema and pain on 
her abdominal wall in the setting of leukocytosis with 
neutrophilic predominance, perhaps from metastatic 
lympadenopathy which became super-infected. She was treated 
empirically with vanc/zosyn, day ___, and received IVF for 
resuscitation to maintain MAP>60. Blood and urine cultures were 
obtained. She went to ___ for ultrasound guided drainage of an 
intraabdominal wall fluid collection (thought to be an abscess 
v. a necrotic lymph node), but ultrasound did not reveal enough 
fluid to make drainage useful, and she demonstrated a need for 
more anesthesia than had been originally planned. Her 
hypotension and tachycardia improved on antibiotics and IVF, and 
she was transferred to gyn/onc for further evaluation and 
management, with plans for vulvar biopsy and exam under 
anesthesia. 

On ___, Ms ___ was taken to the OR and she underwent exam 
under anesthesia and biopsy of the vulvar mass. Per the 
operative report, a 5 cm necrotic, fixed, R inguinal node was 
identified with overlying erythema. The L labia minora and into 
the majora, was replaced by tumor that was approximately 3-4 cm 
in size. It
extended into the vaginal canal and towards the rectovaginal 
septum. The cervix was not amenable to examination. Rectal exam 
revealed no abnormalities. Please see operative note for 
details. Pathology showed invasive squamous cell carcinoma, well 
to moderately differentiated.

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV Dilaudid. Her 
diet was advanced without difficulty and she was transitioned to 
Percocet->vicodin. On post-operative day #1, her urine output 
was adequate so her Foley catheter was removed and she voided 
spontaneously. She was followed by infectious disease and her IV 
antibiotics were transitioned to PO Augmentin on ___ x 2 
weeks with improving symptoms. She remained afebrile and 
non-tachycardic on PO antibiotics. She had a few episodes of 
diarrhea with negative C. Diff. ___ blood cultures no growth 
to date.

Hematology oncology and radiation oncology were consulted for 
her care. Family was included in discussions, including health 
care proxy, grandson ___. Family meeting was held with 
hematology oncology, radiation oncology and gynecologic oncology 
present to discuss treatment options, which included possibility 
of low dose chemotherapy and radiation for palliative care. 
Decision was made to follow up care as outpatient at facility 
closer to patient's home. 

She received physical therapy during her stay and will receive 
follow-up physical therapy and visiting nursing service at home. 
Side rails were recommended. 
By post-operative day 3, she was tolerating a regular diet, 
voiding spontaneously, ambulating with walker, and pain was 
controlled with oral medications. She was then discharged home 
with family members. She was in stable condition with outpatient 
radiation oncology and gynecologic oncology follow-up.

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrocodone-Acetaminophen (5mg-325mg) 7.5-325 TAB PO Q6H:PRN 
pain 
2. Sertraline 25 mg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Ranitidine 150 mg PO DAILY 
5. Mapap (acetaminophen) (acetaminophen) 500 mg oral BID 
6. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 
600/400 IU oral daily 
7. Alendronate Sodium 35 mg PO WEEKLY 
8. Lubricant Eye Drops (carboxymethylcellulose sodium) 0.5 % 
ophthalmic BID 

 
Discharge Medications:
1. Vitamin D 1000 UNIT PO DAILY 
2. Sertraline 25 mg PO DAILY 
3. Ranitidine 150 mg PO DAILY 
4. Lubricant Eye Drops (carboxymethylcellulose sodium) 0.5 % 
ophthalmic BID 
5. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 
600/400 IU oral daily 
6. Alendronate Sodium 35 mg PO WEEKLY 
7. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*2
8. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every 6 hours Disp #*50 Tablet Refills:*1
9. Amoxicillin-Clavulanic Acid ___ mg PO BID Duration: 2 Weeks 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*26 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
vulvar mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
 
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex).  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___